US09376448B2
As shown in step 5-ii of Scheme 5, to a solution of sodium hexamethyldisilazide (NaHMDS, 5.06 g, 26.2 mmol) in THF (100 mL) under an atmosphere of nitrogen at −78° C. was added (4S)-4-benzyl-3-[2-(2-methoxyphenyl)acetyl]oxazolidin-2-one (7.11 g, 21.9 mmol) and the reaction was stirred for 1.5 hours. Methyl iodide (3.08 g, 1.35 mL, 21.7 mmol) was then added dropwise and stirring continued at −78° C. for 4 hours, then the reaction was warmed to room temperature over 18 hours. The reaction was cooled to −20° C. and quenched with NH4Cl (sat). The organics were removed under reduced pressure and the aqueous layer was extracted with DCM (3×). The organic extracts were combined and washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by medium pressure silica gel chromatography (5 to 25% EtOAc in hexanes) to give (4S)-4-benzyl-3-[(2S)-2-(2-methoxyphenyl)propanoyl]oxazolidin-2-one as a white solid with a de of 9:1 (S/R). The solid was then purified via supercritical fluid chromatography (SFC) on an IC column (10% MeOH/CO2 isocratic gradient) to give (4S)-4-benzyl-3-[(2S)-2-(2-methoxyphenyl)propanoyl]oxazolidin-2-one (Compound 2015, 3.14 g, 41.8% yield) with an enantiomeric excess of 99.9% by analytical SFC: 1H NMR (300 MHz, CDCl3) δ 7.41-7.20 (m, 7H), 6.96 (dd, J=13.8, 6.6 Hz, 1H), 6.93-6.84 (m, 1H), 5.30 (q, J=7.1 Hz, 1H), 4.68 (qd, J=6.7, 3.5 Hz, 1H), 4.22-4.11 (m, 2H), 3.84 (s, 3H), 3.35 (dd, J=13.3, 3.2 Hz, 1H), 2.82 (dd, J=13.3, 9.7 Hz, 1H), 1.64-1.46 (m, 3H).

reactant | sodium hexamethyldisilazide | 26.2 mmol, 5.06 g | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | (4S)-4-benzyl-3-[2-(2-methoxyphenyl)acetyl]oxazolidin-2-one | 21.9 mmol, 7.11 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC1=C(C=CC=C1)OC)=O | C19H19NO4
reactant | Methyl iodide | 21.7 mmol, 1.35 mL, 3.08 g | CI | CH3I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4S)-4-benzyl-3-[(2S)-2-(2-methoxyphenyl)propanoyl]oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H](C)C1=C(C=CC=C1)OC)=O | C20H21NO4
